US07825119B2
Synthesis of 2,5-dimethoxy-4,6-dihydroxy-pyrimidine.
9.7 g (180 mmoles) of sodium methylate is added to a solution of 9 g (52 mmoles) of methoxyformamidine sulphate in 100 ml of ethanol cooled down to 0° C. and the mixture is stirred for 15 minutes; then a solution of 6.5 ml (46.8 mmoles) of methyl methoxy malonate in 50 ml of ethanol is added, followed by stirring overnight at ambient temperature. The reaction mixture is evaporated to dryness under reduced pressure (2 kPa). The residue is taken up in 100 ml of a saturated solution of sodium chloride and extracted with 800 and 200 ml of n-butanol. The organic phases are dried over sodium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa). 7 g of expected product is obtained in the form of a white solid.

reactant | sodium methylate | 180 mmoles, 9.7 g | C[O-].[Na+]
reactant | methoxyformamidine sulphate | 52 mmoles, 9 g | S(=O)(=O)(O)O.COC(=N)N
reactant | methyl methoxy malonate | 46.8 mmoles, 6.5 ml | C(CC(=O)OOC)(=O)OC | C5H8O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,5-dimethoxy-4,6-dihydroxy-pyrimidine | 7 g | COC1=NC(=C(C(=N1)O)OC)O | C6H8N2O4
